US04622342
1-(4-Isopropoxyphenyl)propan-2-one
Concentrated hydrochloric acid (90 ml) was added dropwise, over 45 minutes, to a stirred mixture of iron powder (17.5 g) and 1-(4-isopropoxyphenyl)-2-nitroprop1-ene (16.0 g) in tetrahydrofuran (50 ml) at reflux. The mixture was heated under reflux for a further hour, cooled, filtered through diatomaecous earth and the tetrahydrofuran removed under reduced pressure. The residue was diluted with water, extracted with diethyl ether, washed with brine, dried (magnesium sulphate), filtered and evaporated to dryness. Distillation of the residue gave the title compound, bp 120°-6°/1.5 mm.

reactant | hydrochloric acid | 90 ml | Cl | ClH
reactant | 1-(4-isopropoxyphenyl)-2-nitroprop1-ene | 16.0 g | C(C)(C)OC1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C12H15NO3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | iron | 17.5 g | [Fe] | Fe
product | 1-(4-Isopropoxyphenyl)propan-2-one | C(C)(C)OC1=CC=C(C=C1)CC(C)=O | C12H16O2
